US08426420B2
iii) 4-[(S)-4-tert-Butoxycarbonyl-2-({5-[2-((S)-2-carboxy-4,4-difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 881 mg 4-[(S)-4-tert-butoxycarbonyl-2-({5-[2-((S)-4,4-difluoro-2-methoxy-carbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester in 24 ml THF and 6 ml H2O were added 30 mg LiOH at 0° C. The reaction mixture was allowed to warm to RT and was then stirred for 3 h before being acidified by using Amberlite IR-120. The reaction mixture was filtered, washed with MeOH and the combined wash solutions concentrated to give the crude product which was used in the subsequent reaction. Yield: 711 mg.

reactant | 4-[(S)-4-tert-butoxycarbonyl-2-({5-[2-((S)-4,4-difluoro-2-methoxy-carbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | 881 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@H](C(C(C1)(F)F)=C=O)OC)C1=CC=CC=C1)=O | C34H42F2N6O10
reactant | LiOH | 30 mg | [Li+].[OH-]
reactant | THF | 24 ml | C1CCOC1 | C4H8O
solvent | H2O | 6 ml | O | H2O
product | 4-[(S)-4-tert-Butoxycarbonyl-2-({5-[2-((S)-2-carboxy-4,4-difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O)C1=CC=CC=C1)=O | C33H42F2N6O10
